US06358974B1
4,4-Dimethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline
A mixture of 4,4-dimethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline (23.9 g, 0.125 mol) and 48% aqueous hydrobromic acid (158 ml) were heated at vigorous reflux for 4 hours. The reaction mixture was cooled and evaporated in vacuo. The residue was triturated with diethyl ether (20 ml), 1:1 diethyl ether:thf (20 ml) and diethyl ether (3×20 ml) and dried in vacuo to afford the title compound as the hydrobromide salt (17.5 g, 53%).

reactant | 4,4-dimethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.125 mol, 23.9 g | CC1(CNCC2=CC=C(C=C12)OC)C | C12H17NO
reactant | hydrobromic acid | 158 ml | Br | BrH
product | 4,4-Dimethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | CC1(CNCC2=CC=C(C=C12)O)C | C11H15NO
